US08193228B2
4-(2,2-dimethylbutyl)-2-methyl-1-trityl-1H-imidazole
Triethylamine (34 mL, 0.24 mol) followed by trityl bromide (62 g, 0.19 mol) (portionwise) were added to a 0° C. solution of 4-(2,2-dimethylbutyl)-2-methyl-1H-imidazole (26.4 g, 0.16 mol) in methylene chloride (300 mL). After stirring at ambient temperature overnight, the reaction mixture was filtered and washed with water and brine, dried (magnesium sulfate), filtered and concentrated in vacuo. Chromatography over silica eluting with 10-40% ethyl acetate/hexane afforded the title compound.

reactant | Triethylamine | 0.24 mol, 34 mL | C(C)N(CC)CC | C6H15N
reactant | trityl bromide | 0.19 mol, 62 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C19H15Br
reactant | 4-(2,2-dimethylbutyl)-2-methyl-1H-imidazole | 0.16 mol, 26.4 g | CC(CC=1N=C(NC1)C)(CC)C | C10H18N2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,2-dimethylbutyl)-2-methyl-1-trityl-1H-imidazole | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)(CC)C | C29H32N2
